* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft10.asc
V1 a 0 4
R1 0 b 2
D1 a b 1N914
D2 c b 1N914
R2 c 0 5
.model D D
.lib C:\Users\david\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.backanno
.end